US04115455
Preparation of 2-Methyl-2-(t-butylperoxy)-5-hexanol by Catalytic Hydrogenation
The catalytic hydrogenation of the carbonyl group in 2-methyl-2-(t-butylperoxy)-5-hexanone was carried out by shaking 5.0 g. (0.025 mole) of the ketone in a Parr Hydrogenation Apparatus with 25 ml. of 10% methanesulfonic acid solution and 1.0 g. of 5% platinum on carbon catalyst at 0° C. for 2 1/2 hours with a hydrogen pressure of 60 p.s.i.g. At the end of the reaction time, the catalyst was separated by filtration, the product taken up in 50 ml. of pentane, the pentane solution washed to neutrality with water, dried over anhydrous magnesium sulfate and the pentane removed under reduced pressure. The recovered product weighed 3.3 g. (65% recovery). An infrared spectrum showed the presence of a hydroxyl band and the absorption band at 880 cm-1 typical of the t-butylperoxy group.

reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | hydrogen | [H][H] | H2
reactant | 2-methyl-2-(t-butylperoxy)-5-hexanone | CC(C)(CCC(C)=O)OOC(C)(C)C | C11H22O3
catalyst | platinum on carbon | [Pt] | Pt
product | 2-Methyl-2-(t-butylperoxy)-5-hexanol | CC(C)(CCC(C)O)OOC(C)(C)C | C11H24O3
